US08084448B2
C. 1-(3-Benzyloxy-4-nitrobenzyl)-3,4-dihydro-1H-naphthalen-2-one Oxime
A solution of 1-(3-benzyloxy-4-nitrobenzyl)-3,4-dihydro-1H-naphthalen-2-one (600 mg, 1.55 mmol), hydroxylamine hydrochloride (160 mg, 2.32 mmol) and sodium acetate (254 mg, 3.10 mmol) in 6 mL EtOH/H2O (2:1) is refluxed for 2 h. The solution is cooled to RT and extracted with CH2Cl2. The organic layer is washed with water, brined and dried over MgSO4. The solvent is removed under reduced pressure and the residue is purified by flash chromatography with CH2Cl2 to give the title compound as a yellow liquid. (M+1)+=403.

reactant | 1-(3-benzyloxy-4-nitrobenzyl)-3,4-dihydro-1H-naphthalen-2-one | 1.55 mmol, 600 mg | C(C1=CC=CC=C1)OC=1C=C(CC2C(CCC3=CC=CC=C23)=O)C=CC1[N+](=O)[O-] | C24H21NO4
reactant | hydroxylamine hydrochloride | 2.32 mmol, 160 mg | Cl.NO
reactant | sodium acetate | 3.10 mmol, 254 mg | C(C)(=O)[O-].[Na+]
solvent | EtOH H2O | 6 mL | CCO.O
product | 1-(3-Benzyloxy-4-nitrobenzyl)-3,4-dihydro-1H-naphthalen-2-one Oxime | C(C1=CC=CC=C1)OC=1C=C(CC2C(CCC3=CC=CC=C23)=NO)C=CC1[N+](=O)[O-] | C24H22N2O4
